US03950306
Tris-(pentabromophenoxy)-s-triazine was prepared from pentabromophenol and cyanuric chloride using the process described in Example 1, above. The compound was found to have a melting point of 320°-325°C.

reactant | pentabromophenol | BrC1=C(C(=C(C(=C1O)Br)Br)Br)Br | C6HBr5O
reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
product | Tris-(pentabromophenoxy)-s-triazine | BrC1=C(C(=C(C(=C1OC1=NC(=NC(=N1)OC1=C(C(=C(C(=C1Br)Br)Br)Br)Br)OC1=C(C(=C(C(=C1Br)Br)Br)Br)Br)Br)Br)Br)Br | C21Br15N3O3
